// xor2.scs - 2-input CMOS XOR Gate
// XOR2 using NAND-only implementation (4 NANDs)
// Truth table: OUT = A ^ B
//   A B | OUT
//   0 0 | 0
//   0 1 | 1
//   1 0 | 1
//   1 1 | 0
// Run: spectre xor2.scs -raw xor2.raw

simulator lang=spectre

parameters vdd_val=1.8

// MOSFET Models
model nch mos1 type=n vto=0.4 kp=120u
model pch mos1 type=p vto=-0.4 kp=40u

// Supply
V_VDD (vdd 0) vsource dc=vdd_val

// Inputs - cycle through all 4 combinations
// t=5ns:  A=0, B=0
// t=15ns: A=1, B=0
// t=25ns: A=0, B=1
// t=35ns: A=1, B=1
V_A (a 0) vsource type=pulse val0=0 val1=vdd_val delay=10n rise=100p fall=100p width=10n period=20n
V_B (b 0) vsource type=pulse val0=0 val1=vdd_val delay=20n rise=100p fall=100p width=20n period=40n

// NAND2 subcircuit
subckt nand2 (a b out vdd)
    MP0 (out a vdd vdd) pch w=2u l=1u
    MP1 (out b vdd vdd) pch w=2u l=1u
    MN0 (out a mid 0) nch w=2u l=1u
    MN1 (mid b 0 0) nch w=2u l=1u
ends nand2

// XOR2 using 4 NANDs:
// n1 = NAND(a, b)
// n2 = NAND(a, n1)
// n3 = NAND(b, n1)
// out = NAND(n2, n3)
X_N1 (a b n1 vdd) nand2
X_N2 (a n1 n2 vdd) nand2
X_N3 (b n1 n3 vdd) nand2
X_N4 (n2 n3 out vdd) nand2

// Analysis
tran_test tran stop=80n

save out a b
